US07501438B2
Preparation of 3-(2-morpholin-4-yl-ethyl)-imidazo[1,5-a]pyridine-1-carboxylic acid benzylamide
To a solution of 3-butyl-imidazo[1,5-a]pyridine-1-carboxylic acid (200 mg, 0.73 mmol) in DMF (5 mL) was added EDC (182 mg, 0.95 mmol), HOBt, (129 mg, 0.95 mmol) and iPr2EtN (0.22 mL, 1.31 mmol). The mixture was allowed to stir for 10 min. and benzylamine (0.096 mL, 0.88 mmol) was added. The mixture was stirred for 15 h then diluted with ethyl acetate (30 mL) and washed with water (50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica to yield the title compound (45 mg, 17%). 1H NMR (DMSO-d6) δ 8.43 (1H), 8.28 (1H), 8.07 (1H), 7.26 (4H), 7.20 (1H), 7.05 (1H), 6.85 (1H), 4.44 (2H), 3.48 (4H), 3.20 (2H), 2.80 (2H), 2.45 (4H); m/z (M+H)=365.13.

reactant | 3-butyl-imidazo[1,5-a]pyridine-1-carboxylic acid | 0.73 mmol, 200 mg | C(CCC)C1=NC(=C2N1C=CC=C2)C(=O)O | C12H14N2O2
reactant | EDC | 0.95 mmol, 182 mg
reactant | HOBt | 0.95 mmol, 129 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | iPr2EtN | 1.31 mmol, 0.22 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | benzylamine | 0.88 mmol, 0.096 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-morpholin-4-yl-ethyl)-imidazo[1,5-a]pyridine-1-carboxylic acid benzylamide | 45 mg, 17% | C(C1=CC=CC=C1)NC(=O)C=1N=C(N2C1C=CC=C2)CCN2CCOCC2 | C21H24N4O2
